
*Stack2 VR
*Phase-1-Switches
switch2_1_1 1000008001 30000021 phase1 0 switch1 off
L2_1_1 30000021 3000002 0.36e-12
switch2_1_2 1000008003 30010021 phase1 0 switch1 off
L2_1_2 30010021 3001002 0.36e-12
switch2_1_3 1000008005 30020021 phase1 0 switch1 off
L2_1_3 30020021 3002002 0.36e-12
switch2_1_4 1000008007 30030021 phase1 0 switch1 off
L2_1_4 30030021 3003002 0.36e-12
switch2_1_5 1000008002 40000021 phase1 0 switch1 off
L2_1_5 40000021 4000002 0.36e-12
switch2_1_6 1000008004 40010021 phase1 0 switch1 off
L2_1_6 40010021 4001002 0.36e-12
switch2_1_7 1000008006 40020021 phase1 0 switch1 off
L2_1_7 40020021 4002002 0.36e-12
switch2_1_8 1000008008 40030021 phase1 0 switch1 off
L2_1_8 40030021 4003002 0.36e-12

switch2_2_1 1000008002 30000021 phase2 0 switch1 off
L2_2_1 30000021 3000002 0.36e-12
switch2_2_2 1000008004 30010021 phase2 0 switch1 off
L2_2_2 30010021 3001002 0.36e-12
switch2_2_3 1000008006 30020021 phase2 0 switch1 off
L2_2_3 30020021 3002002 0.36e-12
switch2_2_4 1000008008 30030021 phase2 0 switch1 off
L2_2_4 30030021 3003002 0.36e-12
switch2_2_5 1000008001 40000021 phase2 0 switch1 off
L2_2_5 40000021 4000002 0.36e-12
switch2_2_6 1000008003 40010021 phase2 0 switch1 off
L2_2_6 40010021 4001002 0.36e-12
switch2_2_7 1000008005 40020021 phase2 0 switch1 off
L2_2_7 40020021 4002002 0.36e-12
switch2_2_8 1000008007 40030021 phase2 0 switch1 off
L2_2_8 40030021 4003002 0.36e-12

*Left-Capacitors

C3000002_3001002 3000002 3001002 0.2067e-6
C3001002_3002002 3001002 3002002 0.2067e-6
C3002002_3003002 3002002 3003002 0.2067e-6
*Right-Capacitor
C4000002_4001002 4000002 4001002 0.2067e-6
C4001002_4002002 4001002 4002002 0.2067e-6
C4002002_4003002 4002002 4003002 0.2067e-6
